US04595539
p-Nitrobenzyl 2-(4-chloro-2-oxo-1-azetidinyl)-3-acetylthio-3-(2-ethoxyethylthio)acrylate
A solution of 1.2 g p-nitrobenzyl 2-(4-ethylsulfinyl-2-oxo-1-azetidinyl)-3-acetylthio-3-(2-ethoxyethylthio)-acrylate in 50 ml methylene chloride was cooled to -50° C. under a nitrogen atmosphere. Oxalyl chloride (0.196 ml) was added dropwise at -50° C., then the reaction mixture was allowed to warm to -15°. After 1 hour at -15° C. the methylene chloride solution was washed with 20 ml saturated aqueous sodium bicarbonate solution and 20 ml water, dried over anhydrous sodium sulfate and concentrated in vacuo to an oil (1.2 g). The crude title compound was used without further purification. The NMR spectrum of a deuterochloroform solution showed peaks at 1.23(m,3H); 2.3-3.72(c,11H); 5.23(m,2H); 5.7-6.32(c,1H); 7.52(m,2H); and 8.2(m,2H) ppm. The infrared spectrum of a chloroform solution had absorption bands at 5.6 and 5.78 microns.

reactant | p-nitrobenzyl 2-(4-ethylsulfinyl-2-oxo-1-azetidinyl)-3-acetylthio-3-(2-ethoxyethylthio)-acrylate | 1.2 g | C(C)S(=O)C1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(SCCOCC)SC(C)=O)=O | C21H26N2O8S3
reactant | Oxalyl chloride | 0.196 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl 2-(4-chloro-2-oxo-1-azetidinyl)-3-acetylthio-3-(2-ethoxyethylthio)acrylate | ClC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(SCCOCC)SC(C)=O)=O | C19H21ClN2O7S2
